US09193720B2
To a stirred solution of (S)-ethyl 2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-hydroxyphenyl)-2,6-dimethylpyridin-3-yl)acetate (0.04 g, 0.085 mmol), 2-(4-methoxyphenyl)ethanol (0.065 g, 0.427 mmol) and Ph3P (0.067 g, 0.256 mmol) in THF (5 mL) was added DEAD (0.041 ml, 0.256 mmol) at 0° C. After 1 h, the cold bath was removed and stirred for 16 h at rt. Then, the reaction mixture was concentrated and the residue purified by prep-HPLC to afford (S)-ethyl 2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-(4-methoxyphenethoxy)phenyl)-2,6-dimethylpyridin-3-yl)acetate (0.0362 g, 0.060 mmol, 70.4% yield) as white solid. 1H NMR (500 MHz, CDCl3) δ 7.27-7.23 (m, 2H), 7.17-7.13 (m, 1H), 7.09-7.04 (m, 1H), 7.00-6.95 (m, 2H), 6.92-6.88 (m, 2H), 6.08 (s, 1H), 4.29-4.12 (m, 4H), 3.83 (s, 3H), 3.18 (br. s., 1H), 3.11 (t, J=7.1 Hz, 2H), 2.88 (br. s., 1H), 2.61 (s, 3H), 2.28 (br.s., 1H), 2.20 (s, 3H), 2.12-2.00 (m, 1H), 1.71-1.81 (m, 1H), 1.60-1.49 (m, 1H), 1.41-1.32 (m, 1H), 1.26 (t, J=7.1 Hz, 3H), 1.21 (s, 9H), 1.08-1.12 (m, 1H), 0.90 (br.s., 2H), 0.67 (br. s., 2H). LCMS (M+H)=603.5.

reactant | (S)-ethyl 2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-hydroxyphenyl)-2,6-dimethylpyridin-3-yl)acetate | 0.085 mmol, 0.04 g | C(C)(C)(C)O[C@H](C(=O)OCC)C=1C(=NC(=C(C1N1CCC(CC1)(C)C)C1=CC=C(C=C1)O)C)C | C28H40N2O4
reactant | 2-(4-methoxyphenyl)ethanol | 0.427 mmol, 0.065 g | COC1=CC=C(C=C1)CCO | C9H12O2
reactant | Ph3P | 0.256 mmol, 0.067 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DEAD | 0.256 mmol, 0.041 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (S)-ethyl 2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-(4-methoxyphenethoxy)phenyl)-2,6-dimethylpyridin-3-yl)acetate | 0.060 mmol, 0.0362 g, 70.4% yield | C(C)(C)(C)O[C@H](C(=O)OCC)C=1C(=NC(=C(C1N1CCC(CC1)(C)C)C1=CC=C(C=C1)OCCC1=CC=C(C=C1)OC)C)C | C37H50N2O5
